US09227957B2
Preparation of tert-butyl 5-(trifluoromethyl)thiophen-2-ylcarbamate
To 5-(trifluoromethyl)thiophene-2-carboxylic acid in tBuOH (50 mL) was added triethylamine (1.53 mL, 11 mmol) and diphenylphosphoryl azide (DPPA) (2.4 mL, 11 mmol). This mixture was heated to 90° C., and was stirred overnight (ca. 16 hours). Thin layer chromatography (TLC) indicated that the reaction was complete. The solvent was removed under reduced pressure, the residue was dissolved in ethyl acetate (EtOAc) and washed 1× with NaHCO3 aq sat, 1× with citric acid (10% aqueous), and 1× brine. The solution was dried over MgSO4, filtered and concentrated. After silica gel chromatography (5 to 20% EtOAc/hexanes) the title compound was afforded (1.46 g, 44% over 3 steps) as a yellow/orange solid, mp 118-120° C.; Rf=0.31 (10% EtOAc/hex); 1H NMR (DMSO-d6) δ 11.03 (br s, 1H), 7.38 (app d, 1H, J=4.1 Hz), 6.51 (app d, 1H, J=3.3 Hz), 1.49 (s, 9H); GCMS (EI) m/z 267 (M+).

reactant | 5-(trifluoromethyl)thiophene-2-carboxylic acid | FC(C1=CC=C(S1)C(=O)O)(F)F | C6H3F3O2S
reactant | triethylamine | 11 mmol, 1.53 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 11 mmol, 2.4 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tBuOH | 50 mL | CC(C)(C)O | C4H10O
product | tert-butyl 5-(trifluoromethyl)thiophen-2-ylcarbamate | FC(C1=CC=C(S1)NC(OC(C)(C)C)=O)(F)F | C10H12F3NO2S
